US05962458
A solution of 6-methoxy-7-(2-(methylamino)ethoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (363 mg, 1 mmol) and 4-chloro-6-methylpyrimidine (257 mg, 2 mmol), (J. Het. Chem., 1969, 6, 879), in N,N-diisopropylethylamine (2 ml) was heated at reflux for 30 minutes. The volatiles were removed by evaporation and the residue was partitioned between ethyl acetate and water. The organic layer was separated, washed with brine, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol (95/5) to give 6-methoxy-7-(2-(N-methyl-N-(6-methylpyrimidin-4-yl)amino)ethoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (365 mg, 80%).

reactant | 6-methoxy-7-(2-(methylamino)ethoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 1 mmol, 363 mg | COC=1C=C2C(N(C=NC2=CC1OCCNC)COC(C(C)(C)C)=O)=O | C18H25N3O5
reactant | 4-chloro-6-methylpyrimidine | 2 mmol, 257 mg | ClC1=NC=NC(=C1)C | C5H5ClN2
reactant | N,N-diisopropylethylamine | 2 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | 6-methoxy-7-(2-(N-methyl-N-(6-methylpyrimidin-4-yl)amino)ethoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 365 mg, 80% | COC=1C=C2C(N(C=NC2=CC1OCCN(C1=NC=NC(=C1)C)C)COC(C(C)(C)C)=O)=O | C23H29N5O5
